US07320973B2
(R)-5,11-Dihydro-5-[1-(4-pyrrolidinophenethyi)pyrrolidin-3-yl]dibenzo-[b,e][1,4]oxazepine
Potassium carbonate (1.71 g, 12.4 mmol), copper bromide (I) (53 mg, 0.37 mmol) and toluene (30 ml) were added to (R)-N-[1-(4-pyrrolidinophenethyl)pyrrolidin-3-yl]-2-(2-bromobenzyloxy)aniline (1.4 g as mixture). The reaction mixture was heated under reflux for 53 hours and then copper bromide (I) (60 mg, 0.42 mmol) was added thereto. The reaction mixture was heated under reflux for additional 50 hours. Toluene (10 ml), potassium carbonate (1.04 g, 7.52 mmol) and copper bromide (I) (42 mg, 0.29 mmol) were added thereto. The reaction mixture was heated under reflux for 48 hours and then filtered through Celite. Water was added to the filtrate. The organic layer was taken and dried over sodium sulfate. The solvent was evaporated under reduced pressure. A part (187 mg) of the obtained residue (1.12 g) was subjected to the high performance liquid chromatography. After the elution with acetonitrile and water (gradient from 20:80 to 70:30), suitable fractions were collected and distributed into methylene chloride and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to the thin layer silica gel chromatography. After the development with hexane and ethyl acetate (1:5), silica gel was collected from proper parts and then eluted with a solvent mixture of methylene chloride and methanol (3:1). The effluents were collected, and he solvent was evaporated under reduced pressure to obtain the title compound in the form of a white solid (25.5mg, yield in 2 steps: 39%).

reactant | Potassium carbonate | 12.4 mmol, 1.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-N-[1-(4-pyrrolidinophenethyl)pyrrolidin-3-yl]-2-(2-bromobenzyloxy)aniline | 1.4 g | N1(CCCC1)C1=CC=C(CCN2C[C@@H](CC2)NC2=C(C=CC=C2)OCC2=C(C=CC=C2)Br)C=C1 | C29H34BrN3O
reactant | potassium carbonate | 7.52 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper bromide | 0.37 mmol, 53 mg | [Cu](Br)Br
catalyst | copper bromide | 0.42 mmol, 60 mg | [Cu](Br)Br
catalyst | copper bromide | 0.29 mmol, 42 mg | [Cu](Br)Br
solvent | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-5,11-Dihydro-5-[1-(4-pyrrolidinophenethyi)pyrrolidin-3-yl]dibenzo-[b,e][1,4]oxazepine | N1(CCCC1)C1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C29H33N3O
